US09210927B2
Preparation of (E)-3,3,3-Trifluoro-N-((4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)naphthalen-1-yl)methyl)propanamide (CC46)
To a stirred solution of (E)-(4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)naphthalen-1-yl)methanamine (0.1 g, 0.22 mmol) in CH2Cl2 (8 mL) were added 3,3,3-trifluoropropanoic acid (0.032 g, 0.24 mmol), HOBt.H2O (52 mg, 0.33 mmol), EDC.HCl (0.065 g, 0.33 mmol) and DIPEA (0.044 g, 0.45 mmol), and the resultant reaction mixture was stirred at ambient temperature for 18 h. The reaction mixture was diluted with H2O and extracted with EtOAc (3×30 mL). The combined EtOAc layer was washed with brine, dried over Na2SO4, and concentrated under reduced pressure. Purification by flash column chromatography (SiO2, 100-200 mesh; 15% EtOAc in n-hexane) afforded the title compound as a gummy material (60 mg, 50%): mp 151-153° C.; 1H NMR (400 MHz, CDCl3) δ 8.06 (m, 1H), 7.61 (m, 4H), 7.48 (s, 2H), 7.44 (d, J=8.0 Hz, 1H), 7.38 (m, 1H), 6.42 (m, 1H), 5.92 (br s, 1H), 4.92 (m, 2H), 4.24 (m, 1H), 3.12 (m, 2H); ESIMS m/z 554.04 ([M−H]−).

reactant | (E)-(4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)naphthalen-1-yl)methanamine | 0.22 mmol, 0.1 g | FC(C(/C=C/C1=CC=C(C2=CC=CC=C12)CN)C1=CC(=C(C(=C1)Cl)Cl)Cl)(F)F | C21H15Cl3F3N
reactant | 3,3,3-trifluoropropanoic acid | 0.24 mmol, 0.032 g | FC(CC(=O)O)(F)F | C3H3F3O2
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 0.33 mmol, 0.065 g | CCN=C=NCCCN(C)C.Cl
reactant | DIPEA | 0.45 mmol, 0.044 g | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
solvent | H2O | 0.33 mmol, 52 mg | O | H2O
product | (E)-3,3,3-Trifluoro-N-((4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)naphthalen-1-yl)methyl)propanamide | FC(CC(=O)NCC1=CC=C(C2=CC=CC=C12)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)(F)F | C24H16Cl3F6NO
